US07341828B2
Synthesis of 1,2-Propylene Glycol bis(3-mercaptobutyrate) (PGMB)
In a 100-ml eggplant-shaped flask were charged 3.04 g (40 mmol) of 1,2-propylene glycol (manufactured by Wako Pure Chemical Industry Co., Ltd.), 10.57 g (88 mmol) of 3-mercaptobutanoic acid, 0.61 g (3.2 mmol) of p-toluenesulfonic acid monohydrate, and 40 g of toluene, and a Dean-Stark apparatus and a condenser tube were equipped thereto. While the contents being stirred, they were heated at an oil bath temperature of 140° C. After 2 hours from the start of the reaction, 0.61 g (3.2 mmol) of p-toluenesulfonic acid monohydrate was added, and after 4 hours from the start of the reaction, 0.30 g (1.6 mmol) of p-toluenesulfonic acid monohydrate was added. Further, after the reaction was performed for another 1 hour, the reaction mixture was left to cool and neutralized with 100 ml of an aqueous 10% sodium hydrogen carbonate solution. Further, the reaction mixture was washed with deionized water three times, and then dehydrated and dried over anhydrous magnesium sulfate (manufactured by Junsei Chemicals Co., Ltd.). Then, the toluene was distilled off and the residue was subjected to column chromatography with silica gel to purify PGMB. The silica gel used was Wako Gel C-200, and n-hexane/ethyl acetate=6/1 (by volume ratio) was used as an elution solvent. The PGMB obtained by the purification was a colorless transparent liquid and the yield was 2.80 g (25%). The PGMB had a compositional formula of C11H20O4S2 and a molecular weight of 280.41.

reactant | 1,2-propylene glycol | 40 mmol, 3.04 g | C(C(C)O)O | C3H8O2
reactant | 3-mercaptobutanoic acid | 88 mmol, 10.57 g | SC(CC(=O)O)C | C4H8O2S
reactant | p-toluenesulfonic acid monohydrate | 3.2 mmol, 0.61 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | p-toluenesulfonic acid monohydrate | 3.2 mmol, 0.61 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | p-toluenesulfonic acid monohydrate | 1.6 mmol, 0.30 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | toluene | 40 g | C1(=CC=CC=C1)C | C7H8
product | 1,2-Propylene Glycol bis(3-mercaptobutyrate) | SC(CC(=O)OCC(C)OC(CC(C)S)=O)C | C11H20O4S2
